US07700591B2
tert-Butyl 4-(3-{[(4-methylphenyl)sulfonyl]oxy}-1,2-benzisoxazol-5-yl)piperidine-1-carboxylate (285 mg, 0.603 mmol) was dissolved in anhydrous 4N HCl in dioxane (6 mL) and the resulting mixture was stirred at rt for 1 h. The reaction mixture was concentrated to afford 5-piperidin-4-yl-1,2-benzisoxazol-3-yl 4-methylbenzenesulfonate hydrochloride which did not require further purification.

reactant | tert-Butyl 4-(3-{[(4-methylphenyl)sulfonyl]oxy}-1,2-benzisoxazol-5-yl)piperidine-1-carboxylate | 0.603 mmol, 285 mg | CC1=CC=C(C=C1)S(=O)(=O)OC1=NOC2=C1C=C(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C24H28N2O6S
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 5-piperidin-4-yl-1,2-benzisoxazol-3-yl 4-methylbenzenesulfonate hydrochloride | Cl.CC1=CC=C(C=C1)S(=O)(=O)OC1=NOC2=C1C=C(C=C2)C2CCNCC2 | InChI=1S/C19H20N2O4S.ClH/c1-13-2-5-16(6-3-13)26(22,23)25-19-17-12-15(4-7-18(17)24-21-19)14-8-10-20-11-9-14;/h2-7,12,14,20H,8-11H2,1H3;1H
